US09388189B2
(S)-4-Amino-6-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)-3-phenoxypropyl)amino)pyrimidine-5-carbonitrile
(S)-2-(1-Amino-3-phenoxypropyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one was treated with 4-amino-6-chloropyrimidine-5-carbonitrile (6 mg, 0.02 mmol) and N,N-diisopropylethylamine (16 μl, 0.09 mmol) according to the method described in Example 17. The residue was purified using SP1® Purification System (0% to 50%, dichloromethane-acetonitrile) to obtain 4 mg (55% yield) of the title compound as a yellow solid. Purity 89%.

reactant | (S)-2-(1-Amino-3-phenoxypropyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | N[C@@H](CCOC1=CC=CC=C1)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C21H20N4O2
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.02 mmol, 6 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | N,N-diisopropylethylamine | 0.09 mmol, 16 μl | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-4-Amino-6-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)-3-phenoxypropyl)amino)pyrimidine-5-carbonitrile | 4 mg, 55% yield | NC1=NC=NC(=C1C#N)N[C@@H](CCOC1=CC=CC=C1)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C26H22N8O2
